US04537976
Sodium borohydride (2.5 g) is added, in small portions, to a stirred solution of 5.0 g of 6,7-dichloro-5-methoxy-2-methylbenzo[b]thiophen-3(2H)-one (5.0 g), in 120 ml of ethanol. Stirring is continued at room temperature for 1 hour and excess solvent is removed under reduced pressure. The residue is triturated with dilute sodium hydroxide solution and extracted 3 times with ether. The combined ether solution is washed thoroughly with water, dried and concentrated. Removal of ether leaves an oily residue which crystallized upon cooling. For analysis, a small sample was washed with pentane and dried at 60° C. to give 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxy-2-methylbenzo[b]thiophene.

reactant | Sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | 6,7-dichloro-5-methoxy-2-methylbenzo[b]thiophen-3(2H)-one | 5.0 g | ClC=1C(=CC2=C(SC(C2=O)C)C1Cl)OC | C10H8Cl2O2S
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxy-2-methylbenzo[b]thiophene | ClC=1C(=CC2=C(SC(C2O)C)C1Cl)OC | C10H10Cl2O2S
